### PR TITLE
Upgrade to lean 4.15

### PR DESCRIPTION
**Pull request by emina**
This PR updates the Lean models and proofs to Lean version 4.15.

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -111,14 +111,14 @@ theorem map₁_eq_map (f : α → β) (as : List α) :
   as.map₁ (λ x : {x // x ∈ as} => f x.val) =
   as.map f
 := by
-  simp [map₁, attach_def, map_pmap_subtype]
+  simp only [map₁, attach_def, map_pmap_subtype]
```
Comment (adpaco-aws) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean:114]: Can't believe this `only` is all we needed 😅

**Review by adpaco-aws — APPROVED** [review]
Thanks!

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean (hunk 1 above)
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/List/Lemmas.lean:114]: In this particular case, `simp` would have worked too, but I took the opportunity to harden it by using `simp only` instead :)

**Review by john-h-kastner-aws — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Validation/Typechecker/LUB.lean [hunk 2]
```diff
@@ -30,7 +30,7 @@ open Cedar.Data
 open Cedar.Spec
 open Cedar.Validation
 
-inductive IsLubOfRecordTypes : List (Attr × Qualified CedarType) → List (Attr × Qualified CedarType) → List (Attr × Qualified CedarType) → Prop :=
+inductive IsLubOfRecordTypes : List (Attr × Qualified CedarType) → List (Attr × Qualified CedarType) → List (Attr × Qualified CedarType) → Prop where
```
[the remark this answers is not in the document]
Comment (emina) [reply cedar-lean/Cedar/Thm/Validation/Typechecker/LUB.lean:33]: Lean is changing the syntax, so any `inductive` that uses `:=` gets a warning to switch to `where`.
